US08629137B2
1-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
72.8 mg (0.25 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one-dihydrochloride, 75 mg (0.25 mmol) 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and 0.22 mL (1.25 mmol) DIPEA were stirred in 2 mL DMF for 2 h at RT. The mixture was purified by preparative HPLC-MS. The fractions containing the product were combined, the organic solvent was eliminated i. vac. and the aqueous phase remaining was neutralised with a 4N aqueous NaOH solution. The precipitate was suction filtered, washed with water and dried in the CAD.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one-dihydrochloride | 0.25 mmol, 72.8 mg | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O
reactant | 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.25 mmol, 75 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
reactant | DIPEA | 1.25 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O)C)=O | C25H23N7O4
